US07842685B2
4-Bromo-3-fluorobenzaldehyde (100.00 g, 492.6 mmol) was added to toluene (1 L). Propane-1,3-diol (42.72 mL, 591.1 mmol), and p-toluenesulfonic acid monohydrate (4.685 g, 24.63 mmol) were added to above and the reaction mixture was brought to reflux. The solvent (500 mL) was azeotroped off using a dean stark trap. The reaction mixture was cooled and extracted with sat. aqueous sodium bicarbonate (500 mL). The organics were dried over magnesium sulfate and concentrated in vacuo to give 2-(4-bromo-3-fluorophenyl)-1,3-dioxane as a white solid. MS (ESI) m/z: Calculated: 260.0/262.0; Observed: 260.9 (M++1).

reactant | 4-Bromo-3-fluorobenzaldehyde | 492.6 mmol, 100.00 g | BrC1=C(C=C(C=O)C=C1)F | C7H4BrFO
reactant | Propane-1,3-diol | 591.1 mmol, 42.72 mL | C(CCO)O | C3H8O2
reactant | p-toluenesulfonic acid monohydrate | 24.63 mmol, 4.685 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 1 L | C1(=CC=CC=C1)C | C7H8
product | 2-(4-bromo-3-fluorophenyl)-1,3-dioxane | BrC1=C(C=C(C=C1)C1OCCCO1)F | C10H10BrFO2
